US09145441B2
Compound 107d. (S)-1-[(S)-2-((S)-2-{(E)-(R)-4-[2-((R)-1-Hydroxy-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoylamino}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
To freshly prepared (S)-1-[(S)-2-((S)-2-amino-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (139 mg, 0.321 mmol) in dichloromethane (25 mL) was added (E)-(R)-4-[2-((R)-1-hydroxy-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoic acid (101 mg, 0.321 mmol) and the mixture was evaporated. The residue was dissolved in anhydrous acetonitrile (6.4 mL) and the mixture cooled to 0° C. with stirring under nitrogen. 1-[Bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate (146 mg, 0.38 mmol) and N,N-diisopropylethylamine (168 μL, 0.963 mmol) were added and the reaction mixture stirred for 5 minutes and then allowed to warm to ambient temperature. The mixture was stirred for 19 h and evaporated and the residue dissolved in dichloromethane and washed sequentially with saturated sodium bicarbonate solution, water, saturated ammonium chloride solution, brine then was dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified on silica eluting with ethyl acetate to afford the title compound (123 mg, 53%) as a yellow gum. 1H NMR (300 MHz, CDCl3) δ 0.91 (d, J=6.7 Hz, 3H), 0.97 (d, J=6.7 Hz, 3H), 1.33 (d, J=6.7 Hz, 3H), 1.45 (s, 3H), 1.59 (d, J=6.5 Hz, 3H), 1.67-1.78 (m, 2H), 1.90-2.00 (m, 1H), 2.15-2.33 (m, 2H), 2.82-2.91 (m, 1H), 3.47-3.54 (m, 1H), 3.51 (s, 3H), 3.60 (d, J=9.2 Hz, 1H), 3.68-3.76 (m, 1H), 3.73 (d, J=11.4 Hz, 1H), 3.85 (d, J=9.2 Hz, 1H), 4.33-4.45 (m, 2H), 4.72 (d, J=12.0 Hz, 1H), 4.96 (d, J=12.0 Hz, 1H), 4.99-5.08 (m, 2H), 5.27-5.37 (m, 1H), 6.70 (ABq, J=16.5 Hz, 1H), 6.80 (d, J=16.5 Hz, 1H), 6.80 (d, J=8.0 Hz, 1H), 7.31 (d, J=8.3 Hz, 1H), 7.66 (dd, J=8.6, 1.2 Hz, 1H), 7.77 (d, J=8.3 Hz, 1H), 8.01 (s, 1H), 8.12 (d, J=8.7 Hz, 1H). LCMS (m/z) 728.3, 730.3 [M+H], Tr=2.25 min.

reactant | (S)-1-[(S)-2-((S)-2-amino-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.321 mmol, 139 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)N)=O)=O)(Cl)Cl | C15H25Cl3N4O4
reactant | (E)-(R)-4-[2-((R)-1-hydroxy-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoic acid | 0.321 mmol, 101 mg | O[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/[C@](C(=O)O)(C)COC | C18H21NO4
reactant | 1-[Bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate | 0.38 mmol, 146 mg | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | N,N-diisopropylethylamine | 0.963 mmol, 168 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (S)-1-[(S)-2-((S)-2-{(E)-(R)-4-[2-((R)-1-Hydroxy-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoylamino}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 123 mg, 53% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)NC([C@@](\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)O)(C)COC)=O)=O)=O)(Cl)Cl | C33H44Cl3N5O7
